Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Alcohol withdrawal
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with PMH of insomnia, depression, and TE 
fistula
(childhood) who initially presented to OSH for evaluation of
alcohol withdrawal seizure after he was found to be
altered/seizing by his mother. ___ last drink was 2 days 
ago
on ___. Patient usually drinks ___ pints daily. Patient
otherwise denied nausea, vomiting, fevers, chills.  

In the ___:
Patient received a total of 660 mg phenobarbital IV.

Denies history of DTs, but reports that mom saw him have a
seizure (as above)

Initial vital signs were notable for:
99.5, 116, 154/98, 16, 97% RA

Labs were notable for:
CBC: Hemoglobin 13.1, white blood cell count 13.9, platelets 89
Chemâ€"10: Notable for potassium 3.4, magnesium 1.2, phosphorus
2.6
LFTs: ALT 50, AST 92, T bili 3.2, albumin 3.4
Coags: INR 1.3

Patient was given:
Phenobarbital 130 mg IV x2 + 400mg IV
1L NS
Potassium 80 (total)
Magnesium 2 g
Folate 1 mg
Thiamine 200 mg IV + 100 mg p.o.

Vitals on transfer:
98.6, 104, 147/91, 21, 98% RA

Upon arrival to the floor, patient reports that he does not
remember much prior to arriving to ___.  Reports that he was 
in
a detox program back in ___ and had been sober for a while
prior to restarting because it was so easily available among his
relatives.  ___ any other drug use except occasional
marijuana.  No prior history of withdrawal or withdrawal 
seizures
as the patient normally drinks on a daily basis.  Currently,
patient reports that he feels comfortable and calm and is not
experiencing any tremors and other symptoms that he had
experienced at the detox program in ___.  Currently denies
chest pain, palpitations, irritability, fevers, chills, 
abdominal
pain, diarrhea, nausea, vomiting.
 
Past Medical History:
TE Fistula
Asthma
Insomnia
 
Social History:
___
Family History:
Maternal Grandmother - MI
___ Grandfather - ?cancer
No family history of liver disease.
 
Physical Exam:
ADMISSION EXAM
==============
VITALS:98.8, 154/101, 105, 18, 96%Ra
GENERAL: AAOx3, NAD
HEENT: NC/AT, PERRL, EOMI, Sclera anicteric, MMM
NECK: supple, no elevation in JVD 
CARDIAC: RRR, +S1/2, no murmurs, rubs, gallops
LUNGS: CTAB, no wheezing, rales, rhonchi
ABDOMEN: soft, obese, NTND, +BS
EXTREMITIES: no ___ edema
SKIN: Warm, tattoos
NEUROLOGIC: CN2-12 intact, ___ strength throughout, Normal
sensation, normal gait

DISCHARGE EXAM
==============
24 HR Data (last updated ___ @ 836)
    Temp: 98.6 (Tm 99.5), BP: 136/89 (108-147/70-108), HR: 81
(81-105), RR: 18 (___), O2 sat: 93% (93-97), O2 delivery: Ra  
GENERAL: AAOx3, NAD, mildly diaphoretic
HEENT: NC/AT, PERRL, EOMI, Sclera anicteric, no nystagmus, MMM
CARDIAC: RRR, +S1/2, no murmurs, rubs, gallops
LUNGS: diffuse wheezes bilaterally, no rales, no rhonchi
ABDOMEN: soft, obese, NT, mild distention, +BS. 
EXTREMITIES: no ___ edema, no tremor
SKIN: Warm, damp
NEUROLOGIC: CN2-12 intact, ___ strength throughout, Normal
sensation, normal gait
 
Pertinent Results:
ADMISSION LABS
=============
___ 02:01AM BLOOD WBC-13.9* RBC-3.74* Hgb-13.1* Hct-36.3* 
MCV-97 MCH-35.0* MCHC-36.1 RDW-14.9 RDWSD-53.1* Plt Ct-89*
___ 02:01AM BLOOD Neuts-81.7* Lymphs-8.6* Monos-9.1 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-11.37* AbsLymp-1.19* 
AbsMono-1.26* AbsEos-0.00* AbsBaso-0.01
___ 02:01AM BLOOD ___ PTT-28.4 ___
___ 02:01AM BLOOD Glucose-93 UreaN-5* Creat-0.7 Na-134* 
K-2.5* Cl-91* HCO3-24 AnGap-19*
___ 02:01AM BLOOD ALT-50* AST-92* AlkPhos-98 TotBili-3.2*
___ 02:01AM BLOOD Albumin-3.4* Calcium-8.2* Phos-2.6* 
Mg-1.2*

NOTABLE LABS
============
___ 10:20AM BLOOD Hapto-111
___ 06:12AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG
___ 06:12AM BLOOD HIV Ab-NEG
___ 06:12AM BLOOD HCV Ab-NEG

NOTABLE IMAGING
==============
IMPRESSION:
___ . RUQUS
1. Limited exam due to patient body habitus and obscuration from 
bowel gas.
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded
on the basis of this examination.
3. Main, right anterior, and left portal veins are patent with 
appropriate
direction of flow.  No suggestion of thrombosis within 
limitations of this exam.
4. No splenomegaly or ascites.

DISCHARGE LABS
=============
___ 06:10AM BLOOD WBC-7.4 RBC-3.46* Hgb-12.5* Hct-36.5* 
MCV-106* MCH-36.1* MCHC-34.2 RDW-15.7* RDWSD-60.4* Plt Ct-77*
___ 06:10AM BLOOD Glucose-76 UreaN-7 Creat-0.6 Na-135 K-4.1 
Cl-96 HCO3-27 AnGap-12
___ 06:10AM BLOOD ALT-64* AST-104* LD(LDH)-318* AlkPhos-102 
TotBili-1.7*
___ 06:10AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.7
 
Brief Hospital Course:
HOSPITAL COURSE
===============
___ M w hx EtOH use d/o, insomnia, depression, TE fistula 
(childhood) who presented to OSH for EtOH withdrawal sz, found 
altered/seizing by mother. In ___ was tachycardic, hypertensive, 
and found to have electrolyte and LFT abnormalities so admitted 
for investigation. 

ACUTE ISSUES
============
# Alcohol Withdrawal
# ? Withdrawal Seizure
No history of DT or withdrawal seizures. Patient's mother 
reports seizure, however patient denies. Received a total of 660 
mg IV phenobarbital in ___ and switched to PO taper afterwards. 
Still tachycardic and diaphoretic so given some clonidine. 
Following addition of clonidine, asymptomatic, and tachycardia 
and hypertension resolved. Safe for discharge on ___ with close 
follow up. Will continue thiamine, folate, MVI. SW consulted but 
patient declined resources.

# Acute liver injury
AST>ALT 2:1 on initial and repeat labs, Tbili elevated, INR 1.3 
and thrombocytopenia suggestive of synthetic dysfunction. 
Trending down at time of discharge. Hep A, B, C negative. HIV 
negative. EBV CMV pending. RUQ u/s w/o e/o acute process. 
Alcoholic cirrhosis vs alcoholic hepatitis most likely. Given 
clinical stability and downtrending values, will connect with 
outpatient Hepatology.

# Thrombocytopenia
On admission and recheck, though improving on ___. No prior 
values in our records. Likely in the setting of toxin mediated 
effect of alcohol or liver disease but differential includes 
medication induced, virally mediated, rheum/immune mediated. 
Will need close f/u with repeat CBC.

#Asthma: Albuterol PRN

TRANSITIONAL ISSUES
===================
Discharge Plt: 77

[] Follow up with PCP and ___
[] Will have labs (CBC, BMP, LFTs) checked at ___ on ___. 
They will be faxed to ___ (___). Will call 
___ to let us know they are drawn.

# CODE: Full (presumed)
# CONTACT: ___ (Mom) ___
 
Medications on Admission:
None
 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*0 
4.Outpatient Lab Work
Labs: CBC, BMP, LFTs (AST, ALT, total bilirubin)
ICD9: ___
Fax to: ___ (___)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ethanol intoxication and withdrawal
Acute liver injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You are being discharged from ___ today.

What happened while you were admitted?
- You were admitted to the hospital after having a possible 
seizure from drinking.
- You were started on a medication called phenobarbital to help 
with withdrawal
- We had to give you another medication called clonidine to help 
with withdrawal 
- You had elevated liver numbers and low platelets, both of 
which are a sign of liver injury
- You were seen by our social worker, but declined resourced on 
alcohol cessation

What should you do after leaving
- Follow up with your new primary care doctor and liver 
specialist
- Get your labs checked at ___ on ___. They will be faxed 
to ___ (___). When you get them check, please call 
___ to let us know you had them drawn.
- We strongly recommend that you stop drinking alcohol, as we 
can see the severe damage it does to your liver
- It is EXPECIALLY important not to drink during the next week, 
as you still have phenobarbital in your system and the 
combination can cause you to stop breathing and possibly die

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Health Team

 
Followup Instructions:
___